US06316482B1
To a solution of 2,2,6,6-tetramethylpiperidine (1.97 g) in tetrahydrofuran (24.0 ml) was added dropwise n-butyllithium (6.8 ml, 1.64M solution in n-hexane) at −40° C. and the mixture was stirred at 0° C. for 30 minutes. A solution of methyl 1-methoxymethoxyindole-4-carboxylate (1.64 g) in tetrahydrofuran (12.0 ml) was added t the above solution at −60° C. and the solution was stirred at the same temperature for 30 minutes. A solution of N,N-dimethylformamide (662 mg) in tetrahydrofuran (9.0 ml) was added to the reaction mixture at −60° C. and the solution was stirred at the same temperature for 2 hours. The temperature was raised to −320° C. and the reaction was quenched with saturated ammonium chloride aqueous solution. The aqueous solution was extracted with ethyl acetate (80 ml) and the organic layer was washed with brine. Drying, filtering and removal of solvents afforded a crude product. The crude product was purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=9:1) to give methyl 2-formyl-1-methoxymethoxyindole-4-carboxylate (1.15 g).

reactant | 2,2,6,6-tetramethylpiperidine | 1.97 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyllithium | 1.64M, 6.8 ml | C(CCC)[Li]
reactant | methyl 1-methoxymethoxyindole-4-carboxylate | 1.64 g | COCON1C=CC=2C(=CC=CC12)C(=O)OC | C12H13NO4
reactant | N,N-dimethylformamide | 662 mg | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 24.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 9.0 ml | O1CCCC1 | C4H8O
product | methyl 2-formyl-1-methoxymethoxyindole-4-carboxylate | 1.15 g | C(=O)C=1N(C=2C=CC=C(C2C1)C(=O)OC)OCOC | C13H13NO5
